************************************************************************
* auCdl Netlist:
* 
* Library Name:  8_Bit_CSL_Adder
* Top Cell Name: 1_bit_mirror_full_adder
* View Name:     schematic
* Netlisted on:  Dec 15 22:26:12 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: 8_Bit_CSL_Adder
* Cell Name:    1_bit_mirror_full_adder
* View Name:    schematic
************************************************************************

.SUBCKT 1_bit_mirror_full_adder A B Cin GND VDD ~Cout ~S
*.PININFO A:I B:I Cin:I ~Cout:O ~S:O GND:B VDD:B
MM22 net20 B VDD VDD PMOS_VTL W=160.0n L=50n m=1
MM20 net18 B VDD VDD PMOS_VTL W=160.0n L=50n m=1
MM14 ~S Cin net21 VDD PMOS_VTL W=160.0n L=50n m=1
MM13 ~S ~Cout net18 VDD PMOS_VTL W=140.0n L=50n m=1
MM12 net21 A net20 VDD PMOS_VTL W=160.0n L=50n m=1
MM11 net18 Cin VDD VDD PMOS_VTL W=160.0n L=50n m=1
MM10 net18 A VDD VDD PMOS_VTL W=160.0n L=50n m=1
MM4 ~Cout A net7 VDD PMOS_VTL W=180.0n L=50n m=1
MM3 ~Cout Cin net4 VDD PMOS_VTL W=180.0n L=50n m=1
MM2 net7 B VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM1 net4 B VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM0 net4 A VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM23 net24 B GND GND NMOS_VTL W=100n L=50n m=1
MM21 net22 B GND GND NMOS_VTL W=100n L=50n m=1
MM19 net22 A GND GND NMOS_VTL W=100n L=50n m=1
MM18 net22 Cin GND GND NMOS_VTL W=100n L=50n m=1
MM17 net23 A net24 GND NMOS_VTL W=100n L=50n m=1
MM16 ~S Cin net23 GND NMOS_VTL W=100n L=50n m=1
MM15 ~S ~Cout net22 GND NMOS_VTL W=90n L=50n m=1
MM9 net8 A GND GND NMOS_VTL W=115.00n L=50n m=1
MM8 net8 B GND GND NMOS_VTL W=115.00n L=50n m=1
MM7 net9 B GND GND NMOS_VTL W=115.00n L=50n m=1
MM6 ~Cout A net9 GND NMOS_VTL W=115.00n L=50n m=1
MM5 ~Cout Cin net8 GND NMOS_VTL W=115.00n L=50n m=1
.ENDS

